US07662832B2
Step 1: 2-(5-chloro-2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)-1,2,3,4-tetrahydro-isoquinoline
In accordance with the same procedures as in Step 3 of Example 642, except for using 2-(6-chloro-3-nitropyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline prepared in Preparation 7 and isopropenylmagnesium bromide, the titled compound was obtained as yellow oil. (Yield: 35%) The product was used in the subsequent step without further purification.

reactant | 2-(6-chloro-3-nitropyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline | ClC1=CC=C(C(=N1)N1CC2=CC=CC=C2CC1)[N+](=O)[O-] | C14H12ClN3O2
reactant | isopropenylmagnesium bromide | C(=C)(C)[Mg]Br
product | 2-(5-chloro-2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)-1,2,3,4-tetrahydro-isoquinoline | ClC=1C=C2C(=C(N1)N1CC3=CC=CC=C3CC1)NC(=C2)C | C17H16ClN3
